US07632838B2
A solution of tert-butyl 4-hydroxypiperidine-1-carboxylate (3.7 g, 23 mmol) and triphenyl phosphine (12.23 g, 46 mmol) in 50 ml THF was mixed in an ice-H2O bath. A solution of diethyl azodicarboxylate (8.37 g, 46 mmol) in 50 ml THF was added drop-wise, followed by 2,6-dichlorophenol (3.87 g, 23 mmol). The mixture was warmed up to room temperature and stirred for 22 hr. Solvent was removed under vacuum and crude product was purified with column chromatography. tert-Butyl 4-(2,6-dichlorophenoxy)piperidine-1-carboxylate was obtained in 75% yield.

reactant | tert-butyl 4-hydroxypiperidine-1-carboxylate | 23 mmol, 3.7 g | OC1CCN(CC1)C(=O)OC(C)(C)C | C10H19NO3
reactant | triphenyl phosphine | 46 mmol, 12.23 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 46 mmol, 8.37 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 2,6-dichlorophenol | 23 mmol, 3.87 g | ClC1=C(C(=CC=C1)Cl)O | C6H4Cl2O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | tert-Butyl 4-(2,6-dichlorophenoxy)piperidine-1-carboxylate | 75% yield | ClC1=C(OC2CCN(CC2)C(=O)OC(C)(C)C)C(=CC=C1)Cl | C16H21Cl2NO3
